US09227985B2
Step 6. 7-(3,5-Dimethylisoxazol-4-yl)-4-phenyl-5,6-dihydro-4H-imidazo[4,5,1-ij]quinolin-2(1H)-one
A mixture of 7-bromo-4-phenyl-5,6-dihydro-4H-imidazo[4,5,1-ij]quinolin-2(1H)-one (0.050 g, 0.15 mmol) (4.4:1 mixture of isomers with 8-bromo-4-phenyl-5,6-dihydro-4H-imidazo[4,5,1-ij]quinolin-2(1H)-one as the minor isomer), (3,5-dimethylisoxazol-4-yl)boronic acid (10.7 mg, 0.0759 mmol), and cesium carbonate (99.0 mg, 0.304 mmol) in 1,2-dimethoxyethane (1.21 mL) and water (0.303 mL) was degassed with nitrogen for 5 min. The reaction mixture was treated with PEPPSI-IPr (5.2 mg, 0.0076 mmol) [Aldrich, cat. #669032], degassed with nitrogen for 5 min, and heated at 90° C. for 1 h. The reaction mixture was then diluted with ethyl acetate (25 mL) and water (20 mL). The organic layer was separated, washed with brine, dried over sodium sulfate, filtered, and concentrated to give a crude residue. Purification via preparative LCMS (XBridge C18 column, eluting with a gradient of acetonitrile/water containing 0.1% trifluoroacetic acid, at flow rate of 60 mL/min) gave the desired product (14.7 mg, 28%) as a racemic mixture. 1H NMR (500 MHz, CDCl3) δ 10.00 (s, 1H), 7.34-7.20 (m, 3H), 7.08-6.95 (m, 3H), 6.88-6.76 (m, 1H), 5.54 (s, 1H), 2.45-1.96 (m, 10H); LCMS calculated for C21H20N3O2 (M+H)+: m/z=346.2. found: 346.1.

reactant | 7-bromo-4-phenyl-5,6-dihydro-4H-imidazo[4,5,1-ij]quinolin-2(1H)-one | 0.15 mmol, 0.050 g | BrC1=C2CCC(N3C2=C(C=C1)NC3=O)C3=CC=CC=C3 | C16H13BrN2O
reactant | 8-bromo-4-phenyl-5,6-dihydro-4H-imidazo[4,5,1-ij]quinolin-2(1H)-one | BrC=1C=C2CCC(N3C2=C(C1)NC3=O)C3=CC=CC=C3 | C16H13BrN2O
reactant | (3,5-dimethylisoxazol-4-yl)boronic acid | 0.0759 mmol, 10.7 mg | CC1=NOC(=C1B(O)O)C | C5H8BNO3
reactant | cesium carbonate | 0.304 mmol, 99.0 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,2-dimethoxyethane | 1.21 mL | COCCOC | C4H10O2
solvent | water | 0.303 mL | O | H2O
product | 7-(3,5-Dimethylisoxazol-4-yl)-4-phenyl-5,6-dihydro-4H-imidazo[4,5,1-ij]quinolin-2(1H)-one | 14.7 mg, 28% | CC1=NOC(=C1C1=C2CCC(N3C2=C(C=C1)NC3=O)C3=CC=CC=C3)C | C21H19N3O2
